US05202335
To 2-benzyl-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionic acid (100 mg) was added a 3% solution of hydrogen chloride in methanol (2 ml) and the mixture was stirred at room temperature for 16 hours. The solvent was evaporated under reduced pressure and the residue was dissolved in dichloromethane. The solution was washed successively with saturated sodium bicarbonate solution and brine, treated with activated charcoal, and dried over MgSO4. The solvent was evaporated under reduced pressure to give 91 mg of methyl 2-benzyl-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionate as a colorless viscous oil.

reactant | 2-benzyl-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionic acid | 100 mg | C(C1=CC=CC=C1)C(C(=O)O)CC(=O)N1C[C@H]2CCCC[C@H]2C1 | C19H25NO3
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 2 ml | CO | CH4O
product | methyl 2-benzyl-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionate | 91 mg | C(C1=CC=CC=C1)C(C(=O)OC)CC(=O)N1C[C@H]2CCCC[C@H]2C1 | C20H27NO3
